US07598232B2
Step 2: Synthesis of 4-Methoxy-3-Nitrobenzylthioacetic acid:
To a cold solution of sodium hydroxide (9.75 g, 240 mmol) in methanol (200 mL), thioglycollic acid (11.25 g, 120 mmol) was added slowly over 30 minutes. Sodium thioglycollate precipitated was dissolved by stirring and warming up the solution. The solution was cooled to room temperature and 4-methoxy-3-nitrobenzyl chloride (30.0 g, 120 mmol) was added in portions to reduce the intensity of exothermic reaction. The reaction mixture was then refluxed for 4 hours, cooled and poured onto crushed ice (1 Kg) containing hydrochloric acid (50 mL). The precipitate formed was filtered, washed with ice cold water and dried under vacuum. (30.0 g, 95% yield) m.p. 130-132° C.

reactant | sodium hydroxide | 240 mmol, 9.75 g | [OH-].[Na+]
reactant | thioglycollic acid | 120 mmol, 11.25 g | C(C(=O)O)S | C2H4O2S
reactant | 4-methoxy-3-nitrobenzyl chloride | 120 mmol, 30.0 g | COC1=C(C=C(CCl)C=C1)[N+](=O)[O-] | C8H8ClNO3
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
product | 4-Methoxy-3-Nitrobenzylthioacetic acid | 95% yield | COC1=C(C=C(CCC(=S)O)C=C1)[N+](=O)[O-] | C10H11NO4S
